US08017602B2
Step iv) N-Cyclohexyl-3-(3-(oxazol-5-yl)phenethoxy)-N-(2-oxoethyl)propanamide
To a stirred solution of N-cyclohexyl-N-(2,2-dimethoxyethyl)-3-(3-(oxazol-5-yl)phenethoxy)propanamide [Example 10, Step iii)] (660 mg) in acetone (30 mL) was added 2M hydrochloric acid (10 mL). The mixture was stirred for 6 h before the solvents were removed followed by the addition of saturated sodium hydrogen carbonate until basic. The mixture was extracted three times with ethyl acetate, and the pooled organic fractions were washed once with brine, dried over sodium sulphate, filtered and evaporated to afford the sub-titled compound (525 mg). This material was used in the next step directly.

reactant | N-cyclohexyl-N-(2,2-dimethoxyethyl)-3-(3-(oxazol-5-yl)phenethoxy)propanamide | C1(CCCCC1)N(C(CCOCCC1=CC(=CC=C1)C1=CN=CO1)=O)CC(OC)OC | C24H34N2O5
reactant | hydrochloric acid | 2M, 10 mL | Cl | ClH
solvent | acetone | 30 mL | CC(=O)C | C3H6O
product | N-Cyclohexyl-3-(3-(oxazol-5-yl)phenethoxy)-N-(2-oxoethyl)propanamide | 525 mg | C1(CCCCC1)N(C(CCOCCC1=CC(=CC=C1)C1=CN=CO1)=O)CC=O | C22H28N2O4
